US08378104B2
Step F: di-tert-butyl furo[2,3-c]pyridin-7-ylimidodicarbonate
Furo[2,3-c]pyridin-7-amine (34.0 g, 0.25 mol) in DCM (200 mL) was treated with di-tert butyl dicarbonate (165 g, 0.76 mol) in 100 mL DCM, added over a period of 10-15 min. DMAP (1.5 g) was added and the mixture was stirred at RT overnight. Water was added and the phases were separated. The organic layer was washed with water (100 mL), dried over Na2SO4, filtered and concentrated in vacuo. The residue was purified by flash chromatography (10% EtOAc:hexane) to provide 62 g (73%) of the title compound as a light brown solid. 1H NMR (300 MHz, CDCl3): δ 1.38 (s, 18H), 6.84 (d, J=2.10 Hz, 1H), 7.52 (d, J=5.4 Hz, 1H), 7.74 (d, J=2.10 Hz, 1H), 8.29 (d, J=5.4 Hz, 1H).

reactant | Furo[2,3-c]pyridin-7-amine | 0.25 mol, 34.0 g | O1C=CC=2C1=C(N=CC2)N | C7H6N2O
reactant | di-tert butyl dicarbonate | 0.76 mol, 165 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | Water | O | H2O
solvent | DCM | 200 mL | C(Cl)Cl | CH2Cl2
solvent | DCM | 100 mL | C(Cl)Cl | CH2Cl2
catalyst | DMAP | 1.5 g | CN(C)C=1C=CN=CC1 | C7H10N2
product | di-tert-butyl furo[2,3-c]pyridin-7-ylimidodicarbonate | 62 g, 73% | O1C=CC=2C1=C(N=CC2)N(C(=O)OC(C)(C)C)C(=O)OC(C)(C)C | C17H22N2O5
